US08461328B2
A solution of N-((3S,4R)-1-ethyl-3-fluoropiperidin-4-yl)benzamide (6.58 kg, 24.16 mol) in aqueous hydrochloric acid (35 L, 209 mol) was heated to 130° C. external temperature for 10 hours then was allowed to stand overnight at room temperature. The precipitated solid was filtered off and washed with water (2 L). The filtrate was concentrated, and ethanol (20 L) was added at 60° C. The solution was slowly cooled to room temperature overnight, crystallization occurred, and the yellow suspension was cooled to 0° C. for 1 h, filtered over a glass frit, washed with chilled ethanol (10 L, 0° C.), and diethyl ether (5 L). The tan solid was removed from the filter and dried in vacuum oven to yield 4.70 kg of (3S,4R)-1-ethyl-3-fluoropiperidin-4-amine dihydrochloride (85%). 1H NMR (400 MHz, MeOD) δ 5.35 (d, J=47.2 Hz, 1H), 4.32-3.43 (m, 4H), 3.32 (s, 3H), 2.32 (s, 2H), 1.40 (s, 3H), 1.16 (d, J=6.1 Hz, 2H).

reactant | N-((3S,4R)-1-ethyl-3-fluoropiperidin-4-yl)benzamide | 24.16 mol, 6.58 kg | C(C)N1C[C@@H]([C@@H](CC1)NC(C1=CC=CC=C1)=O)F | C14H19FN2O
reactant | hydrochloric acid | 209 mol, 35 L | Cl | ClH
product | (3S,4R)-1-ethyl-3-fluoropiperidin-4-amine dihydrochloride | 4.70 kg, 85% | Cl.Cl.C(C)N1C[C@@H]([C@@H](CC1)N)F | InChI=1S/C7H15FN2.2ClH/c1-2-10-4-3-7(9)6(8)5-10;;/h6-7H,2-5,9H2,1H3;2*1H/t6-,7+;;/m0../s1
